US09370516B2
(R)-tert-butyl 2-(5-bromo-2,3-dihydro-1H-inden-1-yl)-2,7-diazaspiro[3.5]nonane-7-carboxylate
To a solution of (R)-5-bromo-2,3-dihydro-1H-inden-1-amine (1835 g, 8.66 mol) in anhydrous methanol (24 L) was added tert-butyl 4-(chloromethyl)-4-formylpiperidine-1-carboxylate (2310 g, 8.83 mol). The mixture was stirred at 50° C. for 16 h, and cooled to rt. Sodium cyanoborohydride (1000 g, 15.9 mol) in THF (15 L) was added via a syringe pump over 2 hours. The mixture was stirred at 60° C. for 24 hours under nitrogen with a vent into a bleach bath. The reaction was cooled to 20° C. and transferred via a cannula into a vessel containing 24 L of 2.5M sodium hydroxide, and 30 L of DCM. The layers were separated and the aqueous layer was extracted with DCM (2×5 L). The aqueous layer was treated to destruct residual sodium cyanoborohydride. The combined organic layers were dried (MgSO4) and concentrated under reduced pressure. The crude material was slurried in MTBE (7 L) by stirring at 40° C. for 1 h and at rt for 1 h. The solid was filtered, and washed with MTBE (2×500 mL) and dried under vacuum oven at 50° C. to give the title product as a white crystals (3657 g, 90%). MS (ES+) 422.3 (M+H)+. 1H NMR (CDCl3) δ 1.44 (s, 9H), 1.67 (dd, 4H), 1.84-1.93 (m, 1H), 2.07-2.16 (m, 1H), 2.72-2.81 (m, 1H), 2.95-3.15 (m, 5H), 3.31 (dd, 4H), 3.85 (br s, 1H), 7.12 (d, 1H), 7.28 (br s, 1H), 7.35 (br s, 1H). [α]D20=+39.6 deg (c=1.06 mg/mL, MeOH).

reactant | (R)-5-bromo-2,3-dihydro-1H-inden-1-amine | 8.66 mol, 1835 g | BrC=1C=C2CC[C@H](C2=CC1)N | C9H10BrN
reactant | tert-butyl 4-(chloromethyl)-4-formylpiperidine-1-carboxylate | 8.83 mol, 2310 g | ClCC1(CCN(CC1)C(=O)OC(C)(C)C)C=O | C12H20ClNO3
reactant | Sodium cyanoborohydride | 15.9 mol, 1000 g | C(#N)[BH3-].[Na+]
reactant | sodium hydroxide | 2.5M, 24 L | [OH-].[Na+]
solvent | methanol | 24 L | CO | CH4O
solvent | THF | 15 L | C1CCOC1 | C4H8O
solvent | DCM | 30 L | C(Cl)Cl | CH2Cl2
product | (R)-tert-butyl 2-(5-bromo-2,3-dihydro-1H-inden-1-yl)-2,7-diazaspiro[3.5]nonane-7-carboxylate | 3657 g, 90% | BrC=1C=C2CC[C@H](C2=CC1)N1CC2(C1)CCN(CC2)C(=O)OC(C)(C)C | C21H29BrN2O2
